US05665718
20.7 ml (82.7 mmol) of 4N sodium hydroxide solution were added dropwise to a suspension of 22.1 g (63.6 mmol) of ethyl (5)-7,8-difluoro-9-oxo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate in 55 ml of ethanol and 90 ml of water and heated at reflux for 45 minutes. Subsequently, the ethanol was distilled off. The aqueous phase was washed twice with methylene chloride and adjusted to pH=3 with 4N hydrochloric acid. Extraction with methylene chloride (five times), drying with sodium sulfate, filtration and evaporation yielded 20 g (98%) of (S)-7,8-difluoro-9-oxo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylic acid as colourless crystals of m.p. 214.5°-215.5° (dec.).

reactant | sodium hydroxide | 82.7 mmol, 4N, 20.7 ml | [OH-].[Na+]
reactant | ethyl (5)-7,8-difluoro-9-oxo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 63.6 mmol, 22.1 g | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)OCC)CCC3)=O)C1F | C17H15F2N3O3
solvent | ethanol | 55 ml | C(C)O | C2H6O
solvent | water | 90 ml | O | H2O
product | (S)-7,8-difluoro-9-oxo-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylic acid | 20 g, 98% | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)O)CCC3)=O)C1F | C15H11F2N3O3
